US05049558
To a stirred suspension of Raney nickel (16 g.) in MeOH (13 ml.) at 0° was added a solution of 3-azidomethyl-7-[2-(2-aminothiazol-4-yl)-2-((Z)-methoxy-imino)acetamido]ceph-3-em-4-carboxylic acid (2.96 g.) in MeOH/TFA (14 ml., 1.13 ml.). After effervescence ceased the mixture was diluted with MeOH and filtered through paper. The filtrate was evaporated, the residue purified by HPLC using water/HOAc/MeOH 79:1:20 v/v/v as eluant and the product dried over P2O5 to give 3-aminomethyl-7-[2-(2-aminothiazol-4-yl)-2-(Z)-methoxy-imino)acetamido]ceph-3-em-4-carboxylic acid trifluoroacetate (yield 45%) having the following n.m.r. in solvent A:- 3.5-4.2 (m, 4H); 3.9 (s, 3H); 5.15 (d, 1H); 5.85 (d, 1H); 6.75 (s, 1H). 12. HPLC eluant MeOH/water/HOAc 10:89:1 v/v/v. 13. n.m.r. in solvent B: 3.46 (d,1H), 3.72 (d,1H); 3.97 (s,3H); 4.25 (s,3H); 4.11 (d,1H); 4.63 (d,1H); 5.13 (d,1H); 5.73 (d,1H); 6.97 (s,1H); 7.57 (d,1H); 7.98 (dd,1H); 8.93 (d,1H). 14. HPLC eluant MeOH/water/HOAc 15:84:1 v/v/v. 15. n.m.r. in solvent B: 3.43 (d,1H); 3.69 (d,1H); 3.97 (s,3H); 4.19 (s,3H); 4.23 (d,1H); 4.66 (d,1H); 5.12 (d,1H); 5.69 (d,1H); 7.0 (s,1H); 7.98 (d,1H); 8.2 (s,1H); 8.6 (d,1H). 16. The starting material was prepared by reaction of 3,6-difluoropyridazine and trimethyloxonium tetrafluoroborate in CH2C 12 for 15 hours at ambient temperature to give 3,6-difluoro-1-methylpyridazinium tetrafluoroborate. This compound in acetonitrile was treated with a solution of ammonia in chloroform in the presence of 1 equivalent of NaHCO3 for 0.5 hours at ambient temperature to give 3-amino-6-fluoro-2-methyl pyridazinium tetrafluoroborate. 17. HPLC eluant MeOH/water/HOAc 25:74:1 v/v/v. 18. n.m.r. in solvent B: 1.53 (s,6H); 3.5 (m,2H); 3.7 (s,3H); 3.95 (d,1H); 4.5 (d,1H); 5.15 (d,1H); 5.8 (d,1H); 7.0 (s,1H); 7.3 (s,2H). 19. The starting material was prepared by reaction of 2,5-dimethyl-3-fluoropyrazine and trimethyloxonium tetrafluoroborate in CH2Cl2 at ambient temperature for 5 hours to give 3-fluoro-1,2,5-trimethylpyrazinium tetrafluoroborate. 20. n.m.r. in solvent B: 1.53 (s,6H); 2.38 (s,3H); 2.53 (s,3H); 3.5 (m,2H); 4.1 (s,3H); 4.2 (d,1H); 4.85 (d,1H); 5.1 (d,1H); 5.85 (d,1H); 7.05 (s,1H); 7.9 (s,1H).

reactant | 3,6-difluoropyridazine | FC=1N=NC(=CC1)F | C4H2F2N2
reactant | trimethyloxonium tetrafluoroborate | F[B-](F)(F)F.C[O+](C)C
solvent | MeOH water HOAc | CO.O.CC(=O)O
product | 3,6-difluoro-1-methylpyridazinium tetrafluoroborate | F[B-](F)(F)F.FC=1N=[N+](C(=CC1)F)C | InChI=1S/C5H5F2N2.BF4/c1-9-5(7)3-2-4(6)8-9;2-1(3,4)5/h2-3H,1H3;/q+1;-1
